US05580986
1. 5-Amino-4-nitro-1-(5-difluoromethoxy-1-methyl-3-pyrazolyl)-pyrazole
15 g (0.065 mol) 5-Amino-1-(5-difluoromethoxy-1-methyl-3-pyrazolyl)pyrazole was dissolved in 60 ml acetic acid and treated with 7.35 g (0.072 mol) acetic anhydride. After stirring at room temperature for 3 hours, the reaction mixture was cooled to 10° C. 4.95 g (0.078 mol) Fuming nitric acid was added dropwise and the mixture treated with 8.0 g (0.078 mol) acetic anhydride. After stirring for 18 hours at room temperature, the reaction mixture was added to 500 ml ice-water. It was extracted three times with ethyl acetate, the organic phases were washed with water and concentrated. The residue was treated with 80 ml ethanol and 40 ml concentrated hydrochloric acid. After heating for 8 hours under reflux, the ethanol was removed and the residue extracted with ethyl acetate. The concentrated ethyl acetate phases were washed with saturated aqueous sodium hydrogen carbonate, dried over magnesium sulfate and concentrated. The residue was recrystallised from diisopropyl ether and ethyl acetate.

reactant | 5-Amino-1-(5-difluoromethoxy-1-methyl-3-pyrazolyl)pyrazole | 0.065 mol, 15 g | NC1=CC=NN1C1=NN(C(=C1)OC(F)F)C | C8H9F2N5O
reactant | acetic anhydride | 0.072 mol, 7.35 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 0.078 mol, 8.0 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 5-Amino-4-nitro-1-(5-difluoromethoxy-1-methyl-3-pyrazolyl)-pyrazole | NC1=C(C=NN1C1=NN(C(=C1)OC(F)F)C)[N+](=O)[O-] | C8H8F2N6O3
